2148-08-19 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 2 runs of SVT last night
   - the first: 26 beat run of SVT at 3pm - resolved spontaneously.  BP
   remained in the 90s-100s. Patient was asymptomatic.
   - the second: 7:00pm another, longer run of SVT with rate into 170s.
   Again- self-resolved.  BP up to 130s. Gave 12.5 PO metoprolol - HR down
   to 90s.  Patient very anxious.  Given .5mg PO ativan.
   - paged by micro at 0200 hrs for positive blood culture from ED.
   Growing GNRs.  Patient not on abx when cultures were drawn in ED on
   [**8-17**] - now on levo and vanc.
   - Re-cultured at 0230 (blood, urine, sputum).
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   tongue swelling
   Last dose of Antibiotics:
   Vancomycin - [**2148-8-17**] 11:41 PM
   Levofloxacin - [**2148-8-18**] 12:57 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-8-18**] 02:04 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-8-19**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 97 (86 - 180) bpm
   BP: 112/68(86) {70/45(53) - 133/77(99)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,499 mL
                                                                     72 mL
   PO:
                                                                    560 mL
             TF:
   IVF:
                                                                    939 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,760 mL
                                                                    790 mL
   Urine:
                                                                  2,760 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,261 mL
                                                                   -718 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.48/30/115/19/0
   PaO2 / FiO2: 115
   Physical Examination
   Gen'l
 oriented x 3, minimal respiratory distress when lying flat,
   able to complete full sentences
   HEENT - JVP 8 cm
   Lungs
 Decreased breath sounds at right base, occasional rhonchi right
   > left (markedly improved)
   CV
 NSR with frequent premature beats, nl S1S2
   Abd - soft, non tender, non distended
   Ext - 1+ edema, warm
   Pulses - 2+ distal pulses bilaterally
   Labs / Radiology
   596 K/uL
   11.7 g/dL
   107 mg/dL
   1.5 mg/dL
   19 mEq/L
   3.7 mEq/L
   39 mg/dL
   98 mEq/L
   131 mEq/L
   33.5 %
   4.8 K/uL
        [image002.jpg]
                             [**2148-8-17**]  10:00 PM
                             [**2148-8-17**]  10:20 PM
                             [**2148-8-18**]  01:32 AM
                             [**2148-8-18**]  02:08 AM
                             [**2148-8-18**]  06:08 AM
                             [**2148-8-18**]  08:05 AM
                             [**2148-8-18**]  10:52 AM
                             [**2148-8-18**]  04:32 PM
                             [**2148-8-18**]  04:54 PM
                             [**2148-8-19**]  05:58 AM
   WBC
   6.1
   4.8
   Hct
   35.5
   34.3
   33.5
   Plt
   612
   596
   Cr
   1.6
   1.5
   1.5
   1.5
   TropT
   1.56
   1.07
   TCO2
   20
   20
   20
   23
   Glucose
   125
   168
   99
   107
   Other labs: PT / PTT / INR:11.9/50.7/1.0, CK / CKMB /
   Troponin-T:165/15/1.07, Lactic Acid:1.5 mmol/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   81F with hx of anterior STEMI s/p BMS x 2 to proximal LAD, now p/w
   NSTEMI, newly reduced EF, volume overload, SIRS/sepsis.
   .
   # CORONARIES: Pt with known 1 vessel CAD and is s/p thrombectomy and
   BMS x 2 to proximal LAD.  Cardiac Enzymes peaked to troponin 2.29, MB
   32, MB index 11.2 and EKG showed ? ST elevation in leads V1-V3.
   Patient likely had a cardiac event/NSTEMI which is likely from acute
   plaque rupture vs. (less likely) demand ischemia.
   - ASA 325mg PO
   - Plavix 75 mg daily
   - Metoprolol 12.5 mg tid
   - Simvastatin 80 mg daily
   - repeat EKG today
   - no integrilin and no ACEi given acute kidney injury
   - consider cardiac catheterization
   .
   # PUMP: newly reduced EF 15-20% on admission echo, showing global
   hypokinesis.  DDX for newly reduced EF includes NSTEMI (likely) vs.
   (less likely) sepsis (given positive blood cx from ED).  Previous echo
   in [**2147-12-28**] showed LV and RV wall thickness, cavity size and
   regional/global systolic function normal (LVEF >55).  Patient
   presenting with acute CHF exacerbation (given physical exam and CXR) in
   setting of receiving 2 units of pRBC and 300 cc NS. Patient states that
   she has not received this much volume during her visits before.
   - ECHO today to evaluate if EF is improving
   - keep I/Os even to -500 cc as patient euvolemic today
   - continue A line to monitor BP
   - now off lasix gtt
   - neosynephrine gtt to maintain MAPs (currently 0.5), titrate today to
   SBP 90s-100s
   .
   # RHYTHM: sinus tachycardia with two runs of SVT overnight (one while
   on levo, other while on neo).
   - BP stable from 90s-130s during these events
   - on metoprolol 12.5 mg tid
   - repeat EKG today
   - consult EP if she continues to go into SVT today
   .
   # SIRS/bacteremia
 overnight, blood cx from ED positive for GNRs.
   Currently on vanc/levo day 3 for RLL pneumonia.
   - stop vanc today.  Continue levofloxacin to cover for gram negatives.
   - repeat blood cx to ensure resolution of bacteremia
   - has been afebrile overnight, still with left shift
   - f/u cultures for 48hrs
   .
   #  Pneumonia- RLL consolidation on CXR
   -          on vanc/levo day 1=[**8-17**] (day 3 today)
   -          -stop vanc today
   .
   # Hyponatremia - likely related to hypervolemic hyponatremia in setting
   of CHF exacerbation.
   - monitor and expect improvement with diuresis
   - goal I/O even to -500 cc per day
   .
   # Metabolic acidosis - bicarb 19, lactate trending down, likely related
   to increased forward flow and resolving sepsis.  Previous acidosis
   likely related to poor forward flow in setting of volume overload/CHF
   exacerbation as well as SIRS/sepsis.
   - trend lactate and SvO2
   .
   # Urinary tract infection - U/A showing > 50 wbc, mod leukocytes. Looks
   like mostly yeast at this point.
   -          UCx pending from [**8-19**]
   .
   # Acute renal failure
 resolving.  baseline Cr 0.8, current value
   1.3.  Suspect pre-renal etiology given BUN/Cr ratio and physical exam.
   -          now improving since Lasix drip d/c
   -          change foley today
   .
   # h/o htn
 Remains hypotensive and requires neosynephrine for pressure
   support.
   - hold other anti-hypertensives
   .
   # hypothyroidism
 TSH wnl. Continue home dose synthroid.
   .
   # metastatic bladder cancer - received third cycle of Gemzar/Cisplatin
   (most recent treatment [**8-15**]).  Previously received BCG therapy.
   .
   # distant hx of Non-Hodkins Lymphoma - lymphoma in [**2115**] with a large
   axillary mass, status post MOP chemotherapy and mantle radiation.
   .
   # osteoporosis - continue fosamax, as per home regimen.
   .
   # hypocalcemia- on calcium gtt
   -monitor free ionized calcium
   .
   # hypercholesterolemia - continue simvastatin 80 mg.
   .
   FEN: regular heart healthy diet
   .
   ACCESS: PIV's, a-line
   .
   PROPHYLAXIS:
   -DVT ppx with heparin sc
   -Bowel regimen with senna/colace
   .
   CODE: full, confirmed with patient and daughter
   .
   COMM: with patient, daughter
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2148-8-17**] 04:52 AM
   18 Gauge - [**2148-8-17**] 07:00 AM
   Arterial Line - [**2148-8-17**] 04:00 PM
   Prophylaxis:
   DVT:HSQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 60 minutes of critical care time.
   Additional comments:
   hypotension, sepsis, pneumonia, pressor dependent
   ------ Protected Section Addendum Entered By:[**Name (NI) 1714**] [**Name (NI) 4235**],MD
   on:[**2148-8-19**] 10:03 ------

2148-08-20 05:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - bedside echo reviewed; markedly improved LVEF to 45%
   - 2 short runs of SVT with HR to 150s, spontaneously resolved before
   ekg could be done, patient asymptomatic.
   -weaned off of neo last night, BP dropped this AM, back on neo 0.25
   mcg/kg/min @ 6 AM
   This AM, the patient reports a few seconds of dizziness when her BP was
   low, but now improved even though BP still low, denies CP, SOB
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   tongue swelling
   Last dose of Antibiotics:
   Vancomycin - [**2148-8-17**] 11:41 PM
   Levofloxacin - [**2148-8-18**] 12:57 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-8-19**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-8-20**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 110 (86 - 110) bpm
   BP: 109/64(80) {90/54(67) - 122/99(107)} mmHg
   RR: 21 (14 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,774 mL
                                                                    112 mL
   PO:
                                                                    650 mL
             TF:
   IVF:
                                                                  1,124 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  2,013 mL
                                                                    115 mL
   Urine:
                                                                  2,013 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -239 mL
                                                                     -3 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.46/28/120/23/-1
   Physical Examination
   Gen'l
 oriented x 3, minimal respiratory distress when lying flat,
   able to complete full sentences
   HEENT - JVP 8 cm
   Lungs
 Decreased breath sounds at right base, occasional rhonchi right
   > left (markedly improved)
   CV
 NSR with frequent premature beats, nl S1S2
   Abd - soft, non tender, non distended, BS present
   Ext - 1+ edema, warm
   Pulses - 2+ distal pulses bilaterally
   Labs / Radiology
        [image002.jpg]
                             [**2148-8-17**]  10:20 PM
                             [**2148-8-18**]  01:32 AM
                             [**2148-8-18**]  02:08 AM
                             [**2148-8-18**]  06:08 AM
                             [**2148-8-18**]  08:05 AM
                             [**2148-8-18**]  10:52 AM
                             [**2148-8-18**]  04:32 PM
                             [**2148-8-18**]  04:54 PM
                             [**2148-8-19**]  05:58 AM
                             [**2148-8-19**]  02:10 PM
   WBC
   6.1
   4.8
   Hct
   35.5
   34.3
   33.5
   Plt
   612
   596
   Cr
   1.5
   1.5
   1.5
   1.3
   TropT
   1.07
   TCO2
   20
   20
   20
   23
   21
   Glucose
   168
   99
   107
   103
   Other labs: PT / PTT / INR:11.9/50.7/1.0, CK / CKMB /
   Troponin-T:165/15/1.07, Lactic Acid:1.5 mmol/L, Ca++:8.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   MICRO
 Urine Cx [**8-17**] GNR 100k, Blood Cx GNR 100k GNRs
   ECHO TTE [**2148-8-19**] - The left atrium is normal in size. There is mild
   regional left ventricular systolic dysfunction with moderate basal
   antero-septal hypokinesis and mild hypokinesis of the distal 2/3rds of
   the LV. Right ventricular chamber size and free wall motion are normal.
   The aortic valve leaflets (3) are mildly thickened but aortic stenosis
   is not present. No aortic regurgitation is seen. The mitral valve
   leaflets are mildly thickened. Trivial mitral regurgitation is seen.
   There is borderline pulmonary artery systolic hypertension.
   Compared with the prior study (images reviewed) of [**2148-8-17**], the
   function of the distal 2/3rds of the ventricle has improved. This
   change is consistent with resolving stress cardiomyopathy.
   Assessment and Plan
   81F with hx of anterior STEMI s/p BMS x 2 to proximal LAD, now p/w
   NSTEMI vs demand ischemia, newly reduced EF, volume overload,
   SIRS/sepsis.
   .
   # CORONARIES: Pt with known 1 vessel CAD and is s/p thrombectomy and
   BMS x 2 to proximal LAD.  Cardiac Enzymes peaked to troponin 2.29, MB
   32, MB index 11.2 and EKG showed ? ST elevation in leads V1-V3.
   Patient likely had a cardiac event/NSTEMI which is likely
   stress-induced Tokotsubo cardiomyopathy given her improvement in EF and
   the pattern of hypokinesis/dyskinesis.
   - ASA 325mg PO, consider changing to 81mg prior to discharge
   - will continue Plavix 75 mg daily for now in case she will need a cath
   - Will increase metoprolol from 12.5 mg tid to 25mg TID
   - Simvastatin 80 mg daily
   - repeat EKG today
   - no integrilin and no ACEi given acute kidney injury
   - no cardiac catheterization needed immediately at this time
   .
   # PUMP: newly reduced EF 15-20% on admission echo, showing global
   hypokinesis, now markedly improved to 45% (on yesterday
s echo).
   Suspect stress-induced Tokotsubo cardiomyopathy as noted above (from
   prior volume overload, sepsis, etc).  Patient presented with acute CHF
   exacerbation, now diuresed and off RA.
   - back on neo this AM, attempt to wean
   - given gentle IVF overnight which seems to have improved her HR
   slightly
   - continue A line to monitor BP (goal SBP 90-100)
   - now off lasix gtt, and appears orthostatic will hydrate gently with
   small boluses
   .
   # RHYTHM: sinus tachycardia with two runs of SVT overnight, resolved
   without intervention
   - BP stable from 90s-130s during these events
   - on metoprolol 12.5 mg tid
   - repeat EKG today
   - consider EP consult for her SVT runs now that she has had them off
   pressors
   .
   # SIRS/bacteremia
 blood and urine cx from ED positive for GNRs.
   Currently on levo day 4 for RLL pneumonia.  Vanc stopped yesterday
   (after 3 days).
   - Continue levofloxacin to cover for gram negatives
   - repeat blood cx to ensure resolution of bacteremia
   - has been afebrile overnight, WBC decreased this AM to 2.1, [**1-29**] to
   chemo vs. improving SIRS?
   - f/u surveillance cx
   .
   #  Pneumonia - RLL consolidation on CXR
   - off vanc (completed 3 days), on levo (day 4 today)
   .
   # Hypotension
 likely related to SIRS/UTI/pneumonia/bacteremia.  Of
   note, patient
s blood pressure normally sbp 90s-100s, per patient.
   - will continue Abx regimen
   - continue A-line
   - currently on low dose neo/wean off and hydrate with gentle IVF
   .
   # Hyponatremia
 resolved. Likely related to hypervolemic hyponatremia
   in setting of CHF exacerbation.
   - monitor with goal I/O even today
   .
   # Metabolic acidosis
 resolved.  Bicarb 23, lactate trending down,
   likely related to increased forward flow and resolving sepsis.
   Previous acidosis likely related to poor forward flow in setting of
   volume overload/CHF exacerbation as well as SIRS/sepsis.
   - trend lactate and SvO2 if clinical picture changes
   .
   # Urinary tract infection - U/A showing > 50 wbc, mod leukocytes. Now
   urine cx with > 100k GNRs.
   - follow UCx from [**8-17**] for GNR ID
   .
   # Acute renal failure
 resolving.  Baseline Cr 0.8, current value
   1.0.  Suspect pre-renal etiology given BUN/Cr ratio and physical exam.
   - now improving since Lasix drip d/c
   - foley changed yesterday
   .
   # h/o htn
 Remains hypotensive, on low dose neo for pressure support.
   - hold other anti-hypertensives
   .
   # hypothyroidism
 TSH wnl. Continue home dose synthroid.
   .
   # metastatic bladder cancer - received third cycle of Gemzar/Cisplatin
   (most recent treatment [**8-15**]).  Previously received BCG therapy.
   .
   # distant hx of Non-Hodkins Lymphoma - lymphoma in [**2115**] with a large
   axillary mass, status post MOP chemotherapy and mantle radiation.
   .
   # osteoporosis - continue fosamax, as per home regimen.
   .
   # hypocalcemia
   -          monitor free ionized calcium
   -          continue SS Ca
   .
   # hypercholesterolemia - continue simvastatin 80 mg.
   .
   FEN: regular heart healthy diet
   .
   ACCESS: PIV's, a-line
   .
   PROPHYLAXIS:
   -DVT ppx with heparin sc
   -Bowel regimen with senna/colace
   .
   CODE: full, confirmed with patient and daughter
   .
   COMM: with patient, daughter
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2148-8-17**] 04:52 AM
   18 Gauge - [**2148-8-17**] 07:00 AM
   Arterial Line - [**2148-8-17**] 04:00 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 60 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1714**] [**Name (NI) 4235**],MD
   on:[**2148-8-21**] 11:28 AM ------

2148-08-21 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events: Pressors weaned off yesterday, and her pressures have
   increased to SBP of 100s-130s.  Patient is no longer orthostatic after
   receiving 500cc of fluids with lyte repletion.
   -Dr [**Last Name (STitle) 4593**] (hem/onc) was e-mailed to be made aware of her admission and
   specifically in regards to head imaging while as an inpatient given her
   frequent headaches and bladder cancer.  He has not yet responded.
   This AM, patient has no complaints; she denies any CP, SOB,
   lightheadedness, dizziness
   Tele: HR up to 112 on tele, sinus tachy
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   tongue swelling
   Last dose of Antibiotics:
   Levofloxacin - [**2148-8-20**] 05:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-8-20**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-8-21**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.4
   HR: 89 (77 - 100) bpm
   BP: 127/66(92) {76/48(58) - 146/87(112)} mmHg
   RR: 18 (13 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.2 kg (admission): 54.5 kg
   Height: 62 Inch
             Total In:
                                                                  2,007 mL
                                                                    141 mL
   PO:
                                                                    580 mL
             TF:
   IVF:
                                                                  1,427 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  1,238 mL
                                                                    410 mL
   Urine:
                                                                  1,238 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    769 mL
                                                                   -268 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Gen'l
 oriented x 3, NAD, cachectic
   HEENT - JVP 8 cm
   Lungs
 CTAB
   CV
 NSR with frequent premature beats, nl S1S2
   Abd - soft, non tender, non distended, BS present
   Ext - 1+ edema, warm
   Pulses - 2+ distal pulses bilaterally
   Labs / Radiology
   377 K/uL
   10.6 g/dL
   112 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   23 mg/dL
   106 mEq/L
   139 mEq/L
   31.6 %
   2.0 K/uL
        [image002.jpg]
                             [**2148-8-18**]  02:08 AM
                             [**2148-8-18**]  06:08 AM
                             [**2148-8-18**]  08:05 AM
                             [**2148-8-18**]  10:52 AM
                             [**2148-8-18**]  04:32 PM
                             [**2148-8-18**]  04:54 PM
                             [**2148-8-19**]  05:58 AM
                             [**2148-8-19**]  02:10 PM
                             [**2148-8-20**]  05:04 AM
                             [**2148-8-21**]  05:47 AM
   WBC
   6.1
   4.8
   2.1
   2.0
   Hct
   35.5
   34.3
   33.5
   32.9
   31.6
   Plt
   [**Telephone/Fax (3) 8485**]77
   Cr
   1.5
   1.5
   1.3
   1.0
   0.9
   TropT
   1.07
   TCO2
   20
   20
   23
   21
   Glucose
   99
   107
   103
   128
   112
   Other labs: PT / PTT / INR:11.9/50.7/1.0, CK / CKMB /
   Troponin-T:165/15/1.07, Lactic Acid:1.5 mmol/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Urine Culture from [**8-17**]: Cipro-sensitive pseudomonas
   Blood Culture from [**8-17**] ([**12-29**]): GNR, speciation pending?
   Urine culture from [**8-19**]: yeast, speciation pending
   Blood cultures 8/24/2/26 pending, NGTD
   Assessment and Plan
 81F with hx of anterior STEMI s/p BMS x 2 to proximal LAD, now p/w
   NSTEMI vs demand ischemia, improving stress induced cardiomyopathy,
   volume, SIRS/sepsis.
   .
   # CORONARIES: Pt with known 1 vessel CAD and is s/p thrombectomy and
   BMS x 2 to proximal LAD.  Cardiac Enzymes peaked to troponin 2.29, MB
   32, MB index 11.2 and EKG showed ? ST elevation in leads V1-V3.
   Patient likely had a cardiac event/NSTEMI which is likely
   stress-induced Tokotsubo cardiomyopathy given her improvement in EF and
   the pattern of hypokinesis/dyskinesis.
   - lisinopril 5mg daily starting today
   - ASA 325mg PO, consider changing to 81mg prior to discharge
   - will continue Plavix 75 mg daily for now in case she will need a cath
   - continue metoprolol 25 mg TID
   - Simvastatin 80 mg daily
   - no cardiac catheterization needed immediately at this time
   .
   # PUMP: newly reduced EF 15-20% on admission echo, showing global
   hypokinesis, now markedly improved to 45% (on yesterday
s echo).
   Suspect stress-induced Tokotsubo cardiomyopathy as noted above (from
   prior volume overload, sepsis, etc).  Patient presented with acute CHF
   exacerbation, now diuresed and off RA.
   - off pressors o/n, maintaining pressures well
   - given gentle IVF overnight which seems to have improved her HR
   - d/c A-line
   - now off lasix gtt, orthostasis resolvoled with gentle small boluses
   .
   # RHYTHM: sinus tachycardia,
   - on metoprolol 25 mg tid
   - consider EP consult if SVT runs again
   .
   # SIRS/bacteremia
 blood and urine cx from ED positive for GNRs.
   Urine cx showing pseudomonas and yeast, blood culture speciation
   pending,  Currently on levo day 5 for RLL pneumonia.
   - Continue levofloxacin to cover for gram negatives
   - repeat blood cx to ensure resolution of bacteremia
   - has been afebrile overnight, WBC decreased this AM to 2.0, [**1-29**] to
   chemo vs. improving SIRS?
   - f/u surveillance cx
   .
   #  Pneumonia - RLL consolidation on CXR
   - off vanc (completed 3 days), on levo (day 4 today)
   .
   # Hypotension
 likely related to SIRS/UTI/pneumonia/bacteremia.
   Patient maintaining SBP of  120s -130s o/n
   - will continue Abx
   - d/c A-line
   - hydrate with gentle IVF
   .
   # Hyponatremia
 resolved. Likely related to hypervolemic hyponatremia
   in setting of CHF exacerbation.
   - monitor with goal I/O even today
   .
   # Metabolic acidosis
 resolved.  Bicarb 23, lactate trending down,
   likely related to increased forward flow and resolving sepsis.
   Previous acidosis likely related to poor forward flow in setting of
   volume overload/CHF exacerbation as well as SIRS/sepsis.
   - trend lactate and SvO2 if clinical picture changes
   .
   # Urinary tract infection - U/A showing > 50 wbc, mod leukocytes. Now
   urine cx with > 100k GNRs growing pseudomonas on [**8-17**] and yeast on
   [**8-19**], with speciation pending.
   - broad Abx coverage
   .
   # Acute renal failure
 resolving.  Baseline Cr 0.8, current value
   0.9.  Suspect pre-renal etiology given BUN/Cr ratio and physical exam.
   - now improving since Lasix drip d/c
   - continue gentle IVF
   .
   # h/o htn
 Remains hypotensive,
   - hold other anti-hypertensives
   .
   # hypothyroidism
 TSH wnl. Continue home dose synthroid.
   .
   # metastatic bladder cancer - received third cycle of Gemzar/Cisplatin
   (most recent treatment [**8-15**]).  Previously received BCG therapy.
   -stable, f/u with next rounds of chemo
   .
   # distant hx of Non-Hodkins Lymphoma - lymphoma in [**2115**] with a large
   axillary mass, status post MOP chemotherapy and mantle radiation.
   .
   # osteoporosis - continue fosamax, as per home regimen.
   .
   # hypocalcemia
   -          monitor free ionized calcium
   -          continue SS Ca
   .
   # hypercholesterolemia - continue simvastatin 80 mg.
   .
   FEN: regular heart healthy diet
   -nuitrition consult today given low PO intake
   .
   ACCESS: PIV's, a-line
   .
   PROPHYLAXIS:
   -DVT ppx with heparin sc
   -Bowel regimen with senna/colace
   .
   CODE: full, confirmed with patient and daughter
   .
   COMM: with patient, daughter
   .
   Dispo: call out to [**Hospital Ward Name 383**] 3 today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2148-8-17**] 04:52 AM
   18 Gauge - [**2148-8-17**] 07:00 AM
   Arterial Line - [**2148-8-17**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1714**] [**Name (NI) 4235**],MD
   on:[**2148-8-21**] 11:13 AM ------

2148-08-22 06:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No overnight events - patient did well.
   NPO for MIBI this AM.
   Allergies:
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   tongue swelling
   Last dose of Antibiotics:
   Levofloxacin - [**2148-8-20**] 05:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-8-21**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-8-22**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 90 (80 - 104) bpm
   BP: 104/60(71) {88/49(43) - 124/76(87)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.2 kg (admission): 54.5 kg
   Height: 62 Inch
             Total In:
                                                                  1,165 mL
                                                                     61 mL
   PO:
                                                                    590 mL
             TF:
   IVF:
                                                                    575 mL
                                                                     61 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    440 mL
   Urine:
                                                                  1,215 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -50 mL
                                                                   -379 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   Gen'l
 oriented x 3, NAD, cachectic
   HEENT - JVP 5 cm
   Lungs
 CTAB with occasional rhonchi left base
   CV
 NSR with frequent premature beats, nl S1S2
   Abd - soft, non tender, non distended, BS present
   Ext - trace edema, warm
   Pulses - 2+ distal pulses bilaterally
   Labs / Radiology
   362 K/uL
   10.1 g/dL
   96 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   19 mg/dL
   104 mEq/L
   137 mEq/L
   30.7 %
   3.8 K/uL
        [image002.jpg]
                             [**2148-8-18**]  06:08 AM
                             [**2148-8-18**]  08:05 AM
                             [**2148-8-18**]  10:52 AM
                             [**2148-8-18**]  04:32 PM
                             [**2148-8-18**]  04:54 PM
                             [**2148-8-19**]  05:58 AM
                             [**2148-8-19**]  02:10 PM
                             [**2148-8-20**]  05:04 AM
                             [**2148-8-21**]  05:47 AM
                             [**2148-8-22**]  04:20 AM
   WBC
   6.1
   4.8
   2.1
   2.0
   3.8
   Hct
   35.5
   34.3
   33.5
   32.9
   31.6
   30.7
   Plt
   [**Telephone/Fax (3) 8485**]77
   362
   Cr
   1.5
   1.5
   1.3
   1.0
   0.9
   0.8
   TropT
   1.07
   TCO2
   20
   23
   21
   Glucose
   99
   107
   103
   128
   112
   96
   Other labs: PT / PTT / INR:11.4/37.0/0.9, CK / CKMB /
   Troponin-T:165/15/1.07, Lactic Acid:1.5 mmol/L, Ca++:7.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   81F with hx of anterior STEMI s/p BMS x 2 to proximal LAD, now p/w
   NSTEMI, improving stress induced cardiomyopathy, volume overload,
   SIRS/sepsis.
   .
   # CORONARIES: Pt with known 1 vessel CAD and is s/p thrombectomy and
   BMS x 2 to proximal LAD.  Cardiac Enzymes peaked to troponin 2.29, MB
   32, MB index 11.2 and EKG showed ? ST elevation in leads V1-V3.
   Patient likely had a cardiac event/NSTEMI which is likely
   stress-induced Tokotsubo cardiomyopathy given her improvement in EF and
   the pattern of hypokinesis/dyskinesis.
   - lisinopril 5mg daily
   - ASA 325mg PO, consider changing to 81mg prior to discharge
   - will continue Plavix 75 mg daily for now in case she will need a cath
   - continue metoprolol 25 mg TID
   - Simvastatin 80 mg daily
   - no cardiac catheterization needed immediately at this time
   - NPO for MIBI today
   .
   # PUMP: newly reduced EF 15-20% on admission echo, showing global
   hypokinesis, now markedly improved to 45%.  Suspect stress-induced
   Tokotsubo cardiomyopathy as noted above (from prior volume overload,
   sepsis, etc).  Patient presented with acute CHF exacerbation, now
   diuresed and off RA.
   - off pressors, maintaining pressures well
   - d/c
ed A-line
   - now off lasix gtt, orthostasis resolvoled with gentle small boluses
   .
   # RHYTHM: sinus tachycardia
   - on metoprolol 25 mg tid
   - consider EP consult if SVT runs again, but no events overnight
   .
   # SIRS/bacteremia
 blood and urine cx from ED positive for GNRs.
   Urine cx showing pseudomonas and yeast, blood culture speciation
   pending,  Currently on levo day 6 for RLL pneumonia.
   - Continue levofloxacin to cover for gram negatives
   - repeat blood cx to ensure resolution of bacteremia
   - has been afebrile overnight, WBC increased to 3.8, [**1-29**] to improving
   SIRS?
   - f/u surveillance cx
   .
   #  Pneumonia - RLL consolidation on CXR
   - off vanc (completed 3 days), on levo (day 6 today)
   .
   # Hypotension
 likely related to SIRS/UTI/pneumonia/bacteremia.
   Patient maintaining SBP of  90s-100s o/n
   - will continue Abx
   - d/c
ed A-line
   - hydrate with gentle IVF
   .
   # Hyponatremia
 resolved. Likely related to hypervolemic hyponatremia
   in setting of CHF exacerbation.
   - monitor with goal I/O even today
   .
   # Metabolic acidosis
 resolved.  Bicarb 25, lactate trending down,
   likely related to increased forward flow and resolving sepsis.
   Previous acidosis likely related to poor forward flow in setting of
   volume overload/CHF exacerbation as well as SIRS/sepsis.
   - trend lactate and SvO2 if clinical picture changes
   .
   # Urinary tract infection - U/A showing > 50 wbc, mod leukocytes. Now
   urine cx with > 100k GNRs growing pseudomonas on [**8-17**] and yeast on
   [**8-19**], with speciation pending.
   - Abx coverage as above
   - foley was changed
   .
   # Acute renal failure
 resolving.  Cr at baseline.  Suspect pre-renal
   etiology given BUN/Cr ratio and physical exam.
   - now improving since Lasix drip d/c
   - continue gentle IVF
   - encourage PO
   .
   # h/o htn
 Remains hypotensive
   - hold other anti-hypertensives
   .
   # hypothyroidism
 TSH wnl. Continue home dose synthroid.
   .
   # metastatic bladder cancer - received third cycle of Gemzar/Cisplatin
   (most recent treatment [**8-15**]).  Previously received BCG therapy.
   -stable, holding previously scheduled MRI
   -seen by her oncologist yesterday
   .
   # distant hx of Non-Hodkins Lymphoma - lymphoma in [**2115**] with a large
   axillary mass, status post MOP chemotherapy and mantle radiation.
   .
   # osteoporosis - continue fosamax, as per home regimen.
   .
   # hypocalcemia
   -          monitor free ionized calcium
   -          continue SS Ca
   .
   # hypercholesterolemia - continue simvastatin 80 mg.
   .
   FEN: regular diet
   -nuitrition consult completed
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin sc
   -Bowel regimen with senna/colace
   .
   CODE: full, confirmed with patient and daughter
   .
   COMM: with patient, daughter
   .
   Dispo: call out to [**Hospital Ward Name 383**] 3 today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2148-8-17**] 04:52 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to [**Hospital Ward Name 383**] 3
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1714**] [**Name (NI) 4235**],MD
   on:[**2148-8-22**] 10:26 ------